US05616620
a) 3-[(3-Cyanophenyl)methyl]-4,5-dihydro-5,5-diphenyl-1H-imidazol-2,4(3H)-dione
Prepared by reacting 25.5 g (0.101 Mol) of 5,5-diphenylhydantoin with 21.15 g (0.108 Mol) of 3-(bromomethyl)-benzonitrile in the presence of 12.0 g (0.107 Mol) of potassium tert.-butoxide and 200 ml of anhydrous dimethylformamide. After conventional working up 34.0 g (92% of theory) of colourless crystals were obtained, mp. 160°-164° C.

reactant | 5,5-diphenylhydantoin | 0.101 Mol, 25.5 g | C1(=CC=CC=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | 3-(bromomethyl)-benzonitrile | 0.108 Mol, 21.15 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | potassium tert.-butoxide | 0.107 Mol, 12.0 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3-[(3-Cyanophenyl)methyl]-4,5-dihydro-5,5-diphenyl-1H-imidazol-2,4(3H)-dione | C(#N)C=1C=C(C=CC1)CN1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H17N3O2
